US06747025B1
Preparation of 1-Butylaminomethyl-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one
A mixture of Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one (120.0 mg, 0.571 mmol), paraformaldehyde (17.1 mg, 0.571 mmol), and butylamine (56.4 μL, 0.571 mmol) in 5.5 mL of EtOH was heated at reflux for 2.5 h. Then reaction mixture was treated with 2 mL of hexane was and then cooled to 0° C. The reaction mixture was then filtered to remove Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one. The filtrate was partitioned between dilute HCl and ethyl acetate. The organic layer was removed and the aqueous layer washed with 15 mL Ethyl acetate. The aqueous phase was made basic to pH 8 with saturated NaHCO3 and extracted with ethyl acetate. The ethyl acetate layer was washed with H2O, brine and dried over anhydrous Na2SO4. The solvent was removed in vacuo to give 58 mg of yellow oil. The oil was purified by chromatography (silica gel, 1:1/hexane:ethyl acetate) to give the title compound (51.6 mg, 31%) as a yellow solid.

reactant | Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 0.571 mmol, 120.0 mg | N1C(=CC=C1)\C=C\1/C(NC2=CC=CC=C12)=O | C13H10N2O
reactant | paraformaldehyde | 0.571 mmol, 17.1 mg | C=O | CH2O
reactant | butylamine | 0.571 mmol, 56.4 μL | C(CCC)N | C4H11N
reactant | hexane | 2 mL | CCCCCC | C6H14
solvent | EtOH | 5.5 mL | CCO | C2H6O
product | 1-Butylaminomethyl-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 58 mg | C(CCC)NCN1C(C(C2=CC=CC=C12)=CC=1NC=CC1)=O | C18H21N3O
